datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[N:33](C)[C:22]([CH:21]=[CH2:20])=[O:23].C[N:82]1[C:11]([O-:12])=[C:10]([I+:61]C2=CC=CC=C2)[C:91](=[O:92])[N:102](C)[C:83]1=[O:84]>>C[N:33](C)[C:22](=[CH:21][CH2:20][C:10]1([I+:61]C2=CC=CC=C2)[C:11](=[O:12])[N:82](C)[C:83](=[O:84])[N:102](C)[C:91]1=[O:92])[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([N:21]=[C:20]=[N:31]C2=CC=CC=C2)C=C1.CC[C:10]#[C:11][N:12](CC1=CC=CC=C1)[S:63](C1=CC=C(C)C=C1)(=[O:64])=[O:74]>>CC[C:10](=[C:11]=[N+:12](CC1=CC=CC=C1)[S:63](C1=CC=C(C)C=C1)(=[O:64])=[O:74])[C:20]([N-:21]C1=CC=CC=C1)=[N:31]C1=CC=CC=C1 10,11=10,20;12=11,12;20,21=21"
"C1C[C:20](=[O:21])CCO1.CC1=CC=[C:10]([B-:11]23[O:62]CC[N+:82]2(C)CC[O:72]3)O1>>CC1=CC=[C:10]([C:20]2([O-:21])CCOCC2)O1.C[N+:82]12CC[O:62][B:11]1[O:72]CC2 10,11=10,20;20,21=21"
"CC(C)(C)[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]C(C)(C)C)=[O:23].CC1=CC(C)=C([N+:63]2=[C:62]([C:71]([C-:10](C)C3=CC=CC=C3)=[O:72])[N:66](C3=C(C)C=C(C)C=C3C)[CH:65]=[CH:64]2)C(C)=C1>>CC1=CC(C)=C([N+:63]2=[C:62]([C:71]([C:10](C)(C3=CC=CC=C3)[N:20]([N:21]=[C:22]([O-:23])[O:33]C(C)(C)C)[C:41](=[O:42])[O:43]C(C)(C)C)=[O:72])[N:66](C3=C(C)C=C(C)C=C3C)[CH:65]=[CH:64]2)C(C)=C1 10=20;20,21=21,22;22,23=23"
"C1[CH:20]=[CH:21][C:22](=[O:23])[O:33]1.CN1C(=O)[C@H](CC2=CC=CC=C2)[N:12](/[CH:11]=[CH:10]/C2=CC=CC=C2)C1(C)C>>CN1C(=O)[C@H](CC2=CC=CC=C2)[N+:12](=[CH:11][CH:10](C2=CC=CC=C2)[CH:20]2C[O:33][C:22]([O-:23])=[CH:21]2)C1(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:72][C:61]([C-:10]([C:81](=[O:82])[O:92]CC)[C:101](C1=CC=CC=C1)=[O:102])=[O:62].C[C:21]1=[CH:20]CC[C:22]1=[O:23]>>CC[O:72][C:61]([C:10]([CH:20]1CC[C:22]([O-:23])=[C:21]1C)([C:81](=[O:82])[O:92]CC)[C:101](C1=CC=CC=C1)=[O:102])=[O:62] 10=20;20,21=21,22;22,23=23"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1.C[O:16][C:15]1=[CH:14][CH:13]=[C:12]([CH:11]([H:10])[C:72]2=[CH:73][CH:74]=[C:75]([O:86]C)[CH:84]=[CH:83]2)[CH:63]=[CH:64]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:21]2=[C:22]([O-:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1.C[O+:16]=[C:15]1[CH:14]=[CH:13][C:12](=[CH:11][C:72]2=[CH:73][CH:74]=[C:75]([O:86]C)[CH:84]=[CH:83]2)[CH:63]=[CH:64]1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21,22;22,23=23"
"CC[N:72](CC)[C:61]([CH-:10][C:81](C)=[O:82])=[O:62].C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1>>CC[N:72](CC)[C:61]([CH:10]([CH:20]([C:21]1=[C:22](C)[N:23](C)C2=C1C=CC=C2)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1)[C:81](C)=[O:82])=[O:62] 10=20;20,21=21,22;22,23=23"
"CC[O:61]/[C:11](=[C:10](/[C:72](=[O:73])[O:83]CC)[C:91]1=[CH:92][CH:93]=[C:94]([N+:95](=[O:96])[O-:97])[CH:103]=[CH:102]1)[O-:12].CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC[O:61][C:11]([C:10]([CH:20]([C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)([C:72](=[O:73])[O:83]CC)[C:91]1=[CH:92][CH:93]=[C:94]([N+:95](=[O:96])[O-:97])[CH:103]=[CH:102]1)=[O:12] 10,11=10,20;12=11,12"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[C:11]1([H:10])[O:12]CC[O:62]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([H:10])([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[C:11]1=[O+:12]CC[O:62]1 10,11=10,20;12=11,12"
"C[C:11]1=[CH:10]CCC1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>C[C+:11]1CCC[CH:10]1[CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)[C:41]1=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]1 10,11=10,20"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CC(C)[C@H]1CC[N:62]2C3=C(C=CC=C3)[S:72][C:61]2=[N:10]1>>CC(C)[C@H]1CC[N:62]2C3=C(C=CC=C3)[S:72][C:61]2=[N+:10]1[CH:20]([C:21]1=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]1)[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C1=CN(C[C@@H]2CCC[NH:10]2)C=N1.C[CH:20]1C[Fe-2:21]12345(C#[O+])(C#[O+])C1C2C3C4C15>>C[CH:20](C[Fe-3:21]1234(C#[O+])(C#[O+])C5C1C2C3C54)[NH+:10]1CCC[C@H]1CN1C=CN=C1 10=20;20,21=21"
"CC[O:72]/[C:11](=[CH:10]/[C:61]1=[CH:62][CH:63]=[C:64](Br)[CH:83]=[CH:82]1)[O-:12].FC(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[C:32]1=[O:33]>>C1=CC2=C(C=C1)[C:32](=[O:33])[N:21]=[C:22]2[O-:23].CC[O:72][C:11]([CH:10]([S:20]C(F)F)[C:61]1=[CH:62][CH:63]=[C:64](Br)[CH:83]=[CH:82]1)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
